US06713474B2
Cis-5-(4-phenoxyphenyl)-7-(4-piperidinocyclohex-1-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine was dissolved in ethyl acetate (50 mL), diluted with diethyl ether (50 mL) and treated with a 1 M solution of hydrogen chloride in diethyl ether until no further precipitation occurred. The resultant solid was collected and re-crystallised from absolute ethanol to give Cis-5-(4-phenoxyphenyl)-7-(4-piperidinocyclohex-1-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine hydrochloride as a colourless solid (75 mg, 0.2 mmol) melting point 185-189 deg. C.

reactant | Cis-5-(4-phenoxyphenyl)-7-(4-piperidinocyclohex-1-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N2CCCCC2 | C29H33N5O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | Cis-5-(4-phenoxyphenyl)-7-(4-piperidinocyclohex-1-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine hydrochloride | 0.2 mmol, 75 mg | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N2CCCCC2 | InChI=1S/C29H33N5O.ClH/c30-28-27-26(21-9-15-25(16-10-21)35-24-7-3-1-4-8-24)19-34(29(27)32-20-31-28)23-13-11-22(12-14-23)33-17-5-2-6-18-33;/h1,3-4,7-10,15-16,19-20,22-23H,2,5-6,11-14,17-18H2,(H2,30,31,32);1H/t22-,23+;
